US08445505B2
A mixture of 2,5-dimethyl-4-(1,4-dioxaspiro[4.5]decan-8-yl)aniline (86 mg, 0.33 mmol) and 2,5-dichloro-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine (104 mg, 0.43 mmol) in iPrOH (3 mL) was treated with HCl (82 μL, 4N in dioxane, 0.33 mmol) and heated to 125° C. in a sealed tube for 14 h. After cooling down to room temperature, the mixture was concentrated and was treated with acetone (2 mL) and HCl (330 μL, 4N in dioxane) at room temperature for 5 h. The mixture was then treated with saturated NaHCO3 aqueous solution (10 mL) and extracted with EtOAc (3×10 mL). The organic layers were combined, concentrated and purified by flash column chromatography (silica gel, 0%-100% EtOAc in hexanes gradient) to provide 4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)cyclohexanone as white solid; ESMS m/z 425.2 (M+H+).

reactant | 2,5-dimethyl-4-(1,4-dioxaspiro[4.5]decan-8-yl)aniline | 0.33 mmol, 86 mg | CC1=C(N)C=C(C(=C1)C1CCC2(OCCO2)CC1)C | C16H23NO2
reactant | 2,5-dichloro-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 0.43 mmol, 104 mg | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C)Cl | C8H7Cl2N5
reactant | HCl | 0.33 mmol, 4N, 82 μL | Cl | ClH
solvent | iPrOH | 3 mL | CC(C)O | C3H8O
product | 4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)cyclohexanone | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1C)C1CCC(CC1)=O)C)NC1=NNC(=C1)C | C22H25ClN6O
